US05081132
A mixture consisting of 3-methyl-4-methylthio-5-nitro-2-thiazolone (1.0 g), N-(2-chloro-5-pyridylmethyl)-N-methylamine (0.9 g) and ethanol (30 ml) was heat-refluxed for five hours and then cooled to room temperature to obtain the desired 4-[N-(2-chloro-5-pyridylmethyl)-N-methylamino]-3-methyl-5-nitro-2-thiazolone (1.4 g) having a melting point in the range from 147° to 148° C. in a crystal form.

reactant | 3-methyl-4-methylthio-5-nitro-2-thiazolone | 1.0 g | CN1C(SC(=C1SC)[N+](=O)[O-])=O | C5H6N2O3S2
reactant | N-(2-chloro-5-pyridylmethyl)-N-methylamine | 0.9 g | ClC1=NC=C(C=C1)CNC | C7H9ClN2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-[N-(2-chloro-5-pyridylmethyl)-N-methylamino]-3-methyl-5-nitro-2-thiazolone | 1.4 g | ClC1=NC=C(C=C1)CN(C)C=1N(C(SC1[N+](=O)[O-])=O)C | C11H11ClN4O3S
